US08748429B2
(6S,7S,E)-Methyl 7-(3-bromopyrazin-2-yl)-7-(tert-butoxycarbonylamino)-6-(2,3-difluorophenyl)hept-2-enoate
In a 250 mL round-bottomed flask was dissolved tert-butyl (1S,2S)-1-(3-bromopyrazin-2-yl)-2-(2,3-difluorophenyl)hex-5-enylcarbamate (354.6 mg, 0.757 mmol) in methylene chloride (16 mL) to give a colorless solution. Methyl acrylate (0.21 mL, 2.3 mmol) and Grubbs-If catalyst (32.1 mg, 0.038 mmol) were added, and the mixture was stirred under reflux for 3 h under nitrogen. TLC showed complete conversion. Volatile components were removed in vacuo and the residue was purified by flash column chromatography upto 50% ethyl acetate/hexane to afford the desired product (335 mg, 84%) as a colorless oil: 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 8.31 (s, 1H) 8.28 (s, 1H) 6.98-7.14 (m, 3H) 6.80-6.94 (m, 1H) 5.76 (d, J=16.56 Hz, 1H) 5.59-5.71 (m, 1H) 5.42 (d, 0.1-9.54 Hz, 1H) 3.71 (s, 3H) 3.59-3.69 (m, 1H) 2.09-2.29 (m, 2H) 1.96-2.04 (m, 1H) 1.83-1.95 (m, 1H) 1.37 (s, 9H).

reactant | tert-butyl (1S,2S)-1-(3-bromopyrazin-2-yl)-2-(2,3-difluorophenyl)hex-5-enylcarbamate | 0.757 mmol, 354.6 mg | BrC=1C(=NC=CN1)[C@H]([C@@H](CCC=C)C1=C(C(=CC=C1)F)F)NC(OC(C)(C)C)=O | C21H24BrF2N3O2
reactant | Methyl acrylate | 2.3 mmol, 0.21 mL | C(C=C)(=O)OC | C4H6O2
solvent | methylene chloride | 16 mL | C(Cl)Cl | CH2Cl2
product | (6S,7S,E)-Methyl 7-(3-bromopyrazin-2-yl)-7-(tert-butoxycarbonylamino)-6-(2,3-difluorophenyl)hept-2-enoate | 335 mg, 84% | BrC=1C(=NC=CN1)[C@H]([C@@H](CC/C=C/C(=O)OC)C1=C(C(=CC=C1)F)F)NC(=O)OC(C)(C)C | C23H26BrF2N3O4
